US05399655
Synthesis of 6FDA/4,4'-DDS/DHP Polymer
Under nitrogen inside a resin kettle, placed 2.48 g of 4,4'-DDS (fw 248.3, 10.0 moles) and 40.0 mL of anhydrous THF. The diamine did not go into solution. While stirring with a high-torque mechanical stirrer, added 4.66 g of 6FDA (fw 444.2, 10.5 mmoles) and 10.0 mL more THF. Everything went into solution within 5 minutes. After 2 hours of stirring at room temperature added 16.0 g of dihydropyran and 0.2 g of pyr-HCl polymer. The reaction was then stirred for 60 hours at 35° C. under nitrogen with stirring. 1H NMR of crude reaction product shows 90+% conversion to the acetal ester. The catalyst was filtered off and the filtrate was added dropwise to a stirring blender containing 500 mL of hexane. The white precipitate was filtered, washed with hexane, dried under high vacuum to give 6.52 g of product. GPC analysis showed Mw =4730, Mn =2380, and Mw /Mn =1.99.

reactant | 4,4'-DDS | 10.0 moles, 2.48 g | C1=CC(=CC=C1N)S(=O)(=O)C2=CC=C(C=C2)N | C12H12N2O2S
reactant | dihydropyran | 16.0 g | O1CCCC=C1 | C5H8O
reactant | HCl | Cl | ClH
solvent | THF | C1CCOC1 | C4H8O
solvent | THF | 40.0 mL | C1CCOC1 | C4H8O
product | 4,4'-DDS DHP | 6.52 g | C1=CC(=CC=C1N)S(=O)(=O)C2=CC=C(C=C2)N.C1CC=COC1 | InChI=1S/C12H12N2O2S.C5H8O/c13-9-1-5-11(6-2-9)17(15,16)12-7-3-10(14)4-8-12;1-2-4-6-5-3-1/h1-8H,13-14H2;2,4H,1,3,5H2
